### ISSUE TITLE
Coercion elaboration introduces monadic bind into non-monadic code, restricting universes

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#8316]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

```
theorem simple {x : Option Int} {y : Option Nat} : x = y := by
  sorry

/-
simple {x : Option Int} {y : Option Nat} :
  x = do
    let a ← y
    pure ↑a
-/
#check simple

instance : Coe β (α ⊕ β) where
  coe x := .inr x

theorem foo (p : Option (α ⊕ Nat)) (q : Option Nat) : p = q := by
  sorry

/-
foo {α : Type} (p : Option (α ⊕ Nat)) (q : Option Nat) :
  p = do
    let a ← q
    pure (Sum.inr a)
-/
#check foo

theorem bar (p : Option (α ⊕ Nat)) (q : Option Nat) : p = q.map .inr := by
  sorry

/-
bar.{u_1} {α : Type u_1} (p : Option (α ⊕ Nat)) (q : Option Nat) : p = Option.map Sum.inr q
-/
#check bar
```

Here, the RHS of `simple` unexpectedly elaborates to a `do` block in the `Option` monad, which is surprising to users (note: it probably wouldn't be as surprising if instead of `Option` we were in something like `MetaM`).

What's problematic about this is that monads are not universe-polymorphic, so the elaborator forcing the bind can restrict universes unexpectedly. This is seen in `foo`: here, `α` lives in `Type`, while inserting the coercion by hand in `bar` allows for more general universes.

This can lead to theorems which are "silently" less polymorphic than they look, which in turn can lead to failures very far removed from the problematic code (as seen in `CertifyingDatalog`, where the distances is many hundreds of lines).

### Context

This is minimized from a problem observed in [CertifyingDatalog](https://github.com/knowsys/CertifyingDatalog) (where the problematic monad is `List` (from mathlib), not `Option`).

**Expected behavior:** `simple` and `foo` should just fail to elaborate.

**Actual behavior:** `simple` and `foo` elaborate, but with a monadic bind.

### Versions

`4.21.0-nightly-2025-05-12` on live.lean-lang.org

### Additional Information

`Lean.Meta.coerceMonadLift?` seems to be the spot in the elaborator that is responsible for this behavior.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
